US07531532B2
t-Butyl 4-{4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-ylcarbamoyl}piperidine-1-carboxylate (60 mg, 0.101 mmol) and trifluoroacetic acid (0.50 ml) gave a crude product of piperidine-4-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide (ESI-MS (m/z):492). The crude product, formalin (37% aqueous solution; 0.0376 ml, 0.505 mmol), acetic acid (0.0231 ml, 0.404 mmol) and sodium triacetoxyborohydride (42.8 mg, 0.202 mmol) gave the titled compound (51.1 mg, 22.5%) as colorless powder.

reactant | trifluoroacetic acid | 0.50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | piperidine-4-carboxylic acid {4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide | FC1=C(OC2=CC(=NC=C2)NC(=O)C2CCNCC2)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C26H26FN5O4
product | t-Butyl 4-{4-[2-fluoro-4-(3-phenylacetylureido)phenoxy]pyridin-2-ylcarbamoyl}piperidine-1-carboxylate | 0.101 mmol, 60 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C31H34FN5O6
